* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE09\LTspice\AMP\Amp08op.asc
Vs1 Vpp 0 {Vs}
Vs2 0 Vnn {Vs}
Vi pos 0 {Vi}
XU1 pos N001 Vpp Vnn o1 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N001 0 {R1}
R2 N001 o2 {R2}
R3 o2 N002 {R3}
XU2 0 N002 Vpp Vnn o2 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R4 o1 N002 {R4}
R5 o1 0 {R5}
.param Vs=15 Vi=1 R1=2.7k R2=3.3k R3=10k R4=2.7k R5=15k
.op
.meas G param V(o1)/V(pos)
.lib UniversalOpAmp2.lib
.backanno
.end
